US06858651B2
A solution of 235 mg (corresponds to 0.5 mmol) of trans-Methanesulfonic acid 3-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-prop-2-ynyl ester in 2.5 ml of DMA was cooled at 0° C., treated with 0.76 ml (1 mmol) of N-methylpropylamine and stirred over night at RT. The solvent was evaporated and the residue extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried with Na2SO4, filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 98:2) gave 153 mg (81%) of pure trans-Methyl-{4-[3-(methyl-propyl-amino)-prop-1-ynyl]-cyclohexyl}-carbamic acid 4-chloro-phenyl ester, MS: 377 (MH+, 1Cl).

reactant | trans-Methanesulfonic acid 3-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-prop-2-ynyl ester | 0.5 mmol, 235 mg | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)C#CCOS(=O)(=O)C)C)C=C1 | C18H22ClNO5S
reactant | N-methylpropylamine | 1 mmol, 0.76 ml | CNCCC | C4H11N
solvent | DMA | 2.5 ml | CC(=O)N(C)C | C4H9NO
product | trans-Methyl-{4-[3-(methyl-propyl-amino)-prop-1-ynyl]-cyclohexyl}-carbamic acid 4-chloro-phenyl ester | 153 mg, 81% | ClC1=CC=C(C=C1)OC(N([C@@H]1CC[C@H](CC1)C#CCN(CCC)C)C)=O | C21H29ClN2O2
